US07053057B2
(S)-Piperidine-1,2-dicarboxylic acid 1-benzyl ester
To a stirred solution of (S)-piperidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester (8.0g, 28.8 mmol) in MeOH (75 mL ) and water (38 mL ) at 0° C. was added powdered KOH (1.78 g, 31.7 mmol). The reaction mixture was allowed to stir for 16 h at room temperature and then the MeOH was removed in vacuo. The residue was diluted with water and washed DCM. The aqueous layer was acidified with 1.0-M HCl and extracted with ethyl acetate three times. The combined organic extracts were dried (Na2SO4), filtered and concentrated in vacuo to afford the title compound as pale yellow oil (7.6 g, 100%): 1H NMR (400 MHz, CD3OD) δ 1.36–1.61 (2H, m), 1.70–1.85 (3H, m), 2.28–2.40 (1H, m), 3.05–3.26 (1H, m), 4.06–4.14 (1H, m), 4.89–5.26 (4H, m), 7.37–7.48 (5H, m); 13C NMR (100 MHz, CD3OD) δ 20.5, 20.6 (CH2), 24.6, 24.7 (CH2), 26.6 (CH2), 41.8, 41.9 (CH2), 54.5, 54.7 (CH), 67.2, 67.3 (CH2), 127.6 (CH), 127.9 (CH), 128.4 (CH), 136.9 (C), 173.4 (CO).

reactant | (S)-piperidine-1,2-dicarboxylic acid 1-benzyl ester 2-methyl ester | 28.8 mmol, 8.0g | COC(=O)[C@H]1N(CCCC1)C(=O)OCC1=CC=CC=C1 | C15H19NO4
reactant | KOH | 31.7 mmol, 1.78 g | [OH-].[K+]
solvent | MeOH | 75 mL | CO | CH4O
solvent | water | 38 mL | O | H2O
product | (S)-Piperidine-1,2-dicarboxylic acid 1-benzyl ester | 7.6 g, 100% | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CCCC1)C(=O)O | C14H17NO4
